US07700657B2
(g) tert-Butyl-[3-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)phenoxy]dimethylsilane
1.17 g (18 mmol) of zinc powder, 4.7 g (18 mmol) of triphenylphosphine and 5.9 g (18 mmol) of carbon tetrabromide are stirred for 45 minutes in 150 ml of dichloromethane. A solution of 2.6 g (9 mmol) of (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-en-1-al in 10 ml of dichloromethane is added drop by drop. The reaction medium is stirred for 1 hour, then extracted with a mixture of water and of dichloro-methane. The residue is filtered on a silica column (eluent dichloromethane). A yellow oil is obtained (m=3.3 g; Y=83%).

reactant | triphenylphosphine | 18 mmol, 4.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 18 mmol, 5.9 g | C(Br)(Br)(Br)Br | CBr4
reactant | (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-en-1-al | 9 mmol, 2.6 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/C=O)/CC | C17H26O2Si
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | zinc | 18 mmol, 1.17 g | [Zn] | Zn
product | tert-Butyl-[3-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)phenoxy]dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC=C1)\C(=C\C=C(Br)Br)\CC | C18H26Br2OSi
